US04017636
Preparation of N-CBZ-O5 -Succinimido-L-Glutamic Acid O-Ethyl Ester
To a solution of N-CBZ-L-glutamic acid-α-ethyl ester (0.096 mole, 29.6 g.) and N-hydroxysuccinimide (0.1 mole, 11.5 g.) in 200 ml. of dioxane was added with stirring at room temperature (0.1 mole, 21 g.) of dicyclohexylcarbodimide. After stirring 24 hours at room temperature, the mixture was filtered to remove dicyclohexylurea. The filtrate was concentrated in vacuo to give an oil. This oil failed to crystallize and was used in the next step without further purification.

reactant | N-CBZ-L-glutamic acid-α-ethyl ester | 0.096 mole, 29.6 g | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(=O)O)=O | C15H19NO6
reactant | N-hydroxysuccinimide | 0.1 mole, 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodimide | 0.1 mole, 21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-CBZ-O5 -Succinimido-L-Glutamic Acid O-Ethyl Ester | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(=O)ON1C(CCC1=O)=O)=O | C19H22N2O8
